US05247085
2,6-Diamino-9-[2-(diethoxyphosphorylmethoxy)ethoxy]purine
A solution of 6-chloro-9-[2-(diethoxyphosphorylmethoxy)ethoxy]-2-formamidopurine (0.80 g, 1.96 mmol) in ethanol (10 ml) saturated with ammonia gas was heated in a sealed steel vessel at 110° C. for 51/2 hours. The reaction mixture was cooled to ambient temperature, evaporated to dryness and the residue chromatographed on silica gel (eluted with dichloromethane:methanol 90:10) to give the title compound (0.25 g, 35%), m.p. 139°-141° (acetonitrile). UV: νmax (EtOH) 256 (ε8,200), 280 (ε10,200)nm:

reactant | 6-chloro-9-[2-(diethoxyphosphorylmethoxy)ethoxy]-2-formamidopurine | 1.96 mmol, 0.80 g | ClC1=C2N=CN(C2=NC(=N1)NC=O)OCCOCP(=O)(OCC)OCC | C13H19ClN5O6P
reactant | ammonia | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,6-Diamino-9-[2-(diethoxyphosphorylmethoxy)ethoxy]purine | 0.25 g, 35% | NC1=NC(=C2N=CN(C2=N1)OCCOCP(=O)(OCC)OCC)N | C12H21N6O5P
